US07247649B2
1-[4-(4-{2-[2-(E)-(2-Fluoro-4-trifluoromethyl-phenyl)-vinyl]-oxazol-4-ylmethoxy}-phenyl)-butyl]-1H-[1,2,3]triazole
0.305 g (1.00 mmol) 4-Chloromethyl-2-[2-(2-fluoro-4-trifluoromethyl-phenyl)-vinyl]-oxazole, 0.217 g 1.00 mmol) 4-(4-[1,2,3]triazol-1-yl-butyl)-phenol, 0.166 g (1.00 mmol) potassium iodide and 0.191 ml (1.00 mmol) of a 30% sodium methylate solution were added to 50.0 ml methanol and heated to reflux for 10 h. After removal of solvent, partitioning of the residue between 50 ml ethyl acetate and 15 ml water, the organic phase was washed 3× with 15 ml 1 N NaOH, twice with 15 ml water and dried over sodium sulphate. The solution was evaporated to dryness and the residue purified by reversed phase HPLC (C4-column, eluent: methanol/water 8:2+0.2% acetic acid). After evaporation and drying of the product containing fractions, the residue was treated with diethyl ether and dried in vacuo at 40° C. 80 mg (16%) 1-[4-(4-{2-[2-(2-Fluoro-4-trifluoromethyl-phenyl)-vinyl]-oxazol-4-ylmethoxy}-phenyl)-butyl]-1H-[1,2,3]triazole.

reactant | 4-Chloromethyl-2-[2-(2-fluoro-4-trifluoromethyl-phenyl)-vinyl]-oxazole | 1.00 mmol, 0.305 g | ClCC=1N=C(OC1)C=CC1=C(C=C(C=C1)C(F)(F)F)F | C13H8ClF4NO
reactant | 4-(4-[1,2,3]triazol-1-yl-butyl)-phenol | N1(N=NC=C1)CCCCC1=CC=C(C=C1)O | C12H15N3O
reactant | potassium iodide | 1.00 mmol, 0.166 g | [I-].[K+]
reactant | sodium methylate | C[O-].[Na+]
solvent | methanol | 50.0 ml | CO | CH4O
product | 1-[4-(4-{2-[2-(E)-(2-Fluoro-4-trifluoromethyl-phenyl)-vinyl]-oxazol-4-ylmethoxy}-phenyl)-butyl]-1H-[1,2,3]triazole | FC1=C(C=CC(=C1)C(F)(F)F)/C=C/C=1OC=C(N1)COC1=CC=C(C=C1)CCCCN1N=NC=C1 | C25H22F4N4O2
